US07705027B2
Boron trichloride solution (1M in dichloromethane, 1 ml, 1 mmol) was added to a solution of 3-(2,4-Bis-benzyloxy-5-bromo-phenyl)-4-(4-methoxy-phenyl)-5-methyl-isoxazole (38 mg, 0.068 mmol) in dichloromethane (1 ml), and stirring was continued for 1 h. The reaction mixture was partitioned between water (20 ml) and dichloromethane (2×20 ml) and the combined organic phases were dried over anhydrous magnesium sulphate and concentrated in vacuo to leave a brown oil. The crude product was purified by column chromatography, silica (10 g), eluting with hexane, followed by hexane/diethyl ether (3:1 then 1:1), to give 4-Bromo-6-[4-(4-methoxy-phenyl)-5-methyl-isoxazol-3-yl]-benzene-1,3-diol as a colourless oil (11 mg, 43%).

reactant | Boron trichloride | 1 mmol, 1M, 1 ml | B(Cl)(Cl)Cl | BCl3
reactant | 3-(2,4-Bis-benzyloxy-5-bromo-phenyl)-4-(4-methoxy-phenyl)-5-methyl-isoxazole | 0.068 mmol, 38 mg | C(C1=CC=CC=C1)OC1=C(C=C(C(=C1)OCC1=CC=CC=C1)Br)C1=NOC(=C1C1=CC=C(C=C1)OC)C | C31H26BrNO4
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
product | 4-Bromo-6-[4-(4-methoxy-phenyl)-5-methyl-isoxazol-3-yl]-benzene-1,3-diol | 11 mg, 43% | BrC1=C(C=C(C(=C1)C1=NOC(=C1C1=CC=C(C=C1)OC)C)O)O | C17H14BrNO4
